US09169261B2
Synthesis of 1-(4-chlorophenyl)pyrazole-3-carboxylic acid
To a solution of ethyl 1-(4-chlorophenyl)pyrazole-3-carboxylate (250 mg, 1 mmol) in THF was added 3.0 mL of 1.0 M of LiOH (3.0 mmol). The resulting mixture was stirred at room temperature for 3 h at which time 1.0 M HCl was added to adjust the pH to 1.0. The organics were extracted with EtOAc (2×100 mL), dried over MgSO4, and concentrated under reduced pressure to give a white solid (213 mg, 96%), which was used for next step without further purification.

reactant | ethyl 1-(4-chlorophenyl)pyrazole-3-carboxylate | 1 mmol, 250 mg | ClC1=CC=C(C=C1)N1N=C(C=C1)C(=O)OCC | C12H11ClN2O2
reactant | LiOH | 3.0 mmol, 1.0 M, 3.0 mL | [Li+].[OH-]
reactant | HCl | 1.0 M | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 1-(4-chlorophenyl)pyrazole-3-carboxylic acid | 213 mg, 96% | ClC1=CC=C(C=C1)N1N=C(C=C1)C(=O)O | C10H7ClN2O2
